US04359579
Acetoacetanilide (88.6 g, 0.5 mole) is dissolved under agitation, at room temperature, in 140 g aqueous 28.6% NaOH (0.5 mole). Crude di-(2-hydroxyethyl) disulfide (176 g), obtained by oxidation of 2-mercaptoethanol with 50% hydrogen peroxide, (i.e. an approx 68% aqueous solution) is added to the reaction mixture, which is then heated to 38° C. After 15 minutes 15% aqueous NaOH (16 g) is added and after a further 15 minutes the addition of 50% hydrogen peroxide is started. Subsequently the reaction is carried out as described in EXAMPLE 1. A total of 16.8 g 50% hydrogen peroxide is used. The extraction/acidification procedure, as well as the cyclization step, is carried out as in EXAMPLE 1. After the last water wash, following the cyclization, toluene is evaporated from the reaction mixture under vacuum, at up to 60°, and the residue is redissolved in 90 g isopropanol. After crystallization, filtration and drying, 80.2 g 5,6-dihydro-2-methyl-N-phenyl-1,4-oxathiin-3-carboxamide is obtained (yield 68.1% based on acetoacetanilide), M.P. 96.8°-98.0° C., Assay 98.9%.

reactant | Acetoacetanilide | 0.5 mole, 88.6 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | NaOH | 0.5 mole | [OH-].[Na+]
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | hydrogen peroxide | OO | H2O2
reactant | NaOH | 16 g | [OH-].[Na+]
reactant | hydrogen peroxide | 16.8 g | OO | H2O2
product | 5,6-dihydro-2-methyl-N-phenyl-1,4-oxathiin-3-carboxamide | 80.2 g, yield 68.1% | CC=1OCCSC1C(=O)NC1=CC=CC=C1 | C12H13NO2S
